US05143930
5-{4-[2-Hydroxy-2-methyl-4-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)butoxy]benzyl}-2,4-dioxothiazolidine
15 ml of an aqueous solution of ferric chloride acidified with hydrochloric acid [a mixture of about 65% by weight of ferric chloride (FeCl3.6H2O) and about 35% by weight of concentrated hydrochloric acid] were added dropwise, whilst ice-cooling and stirring, to a solution of 6.3 g of 5-[4-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]-2,4-dioxothiazolidine dissolved in 50 ml of acetone, and the resulting mixture was allowed to stand overnight at room temperature. At the end of this time, the reaction mixture was diluted with 500 ml of water and then extracted with ethyl acetate. The extracts were combined, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, and the solvent was then removed by distillation under reduced pressure. The resulting residue was then purified by column chromatography through silica gel, using a 5:1 by volume mixture of benzene and ethyl acetate as the eluent, to afford 4.2 g of the title compound as a yellow powder softening at 55°-65° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 5-[4-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]-2,4-dioxothiazolidine | 6.3 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C24H27NO5S
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 500 ml | O | H2O
product | 5-{4-[2-Hydroxy-2-methyl-4-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)butoxy]benzyl}-2,4-dioxothiazolidine | 4.2 g | OC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)(CCC=1C(C(=C(C(C1C)=O)C)C)=O)C | C24H27NO6S
